2182-12-07 06:19:00 Physician Resident Progress Note
Chief Complaint: Rigidity
   24 Hour Events:
 ARTERIAL LINE - START [**2182-12-6**] 08:04 AM
 SPUTUM CULTURE - At [**2182-12-6**] 10:40 AM
 MULTI LUMEN - START [**2182-12-6**] 11:43 AM
 LUMBAR PUNCTURE - At [**2182-12-6**] 02:48 PM
   [**12-6**]
   - LP done - 0 WBC and 0 RBC with normal protein and glucose.
   - Central line placed.
   - f/u blood cultures from OSH
   - 8pm lytes show improving CK and Cr, low phos repleted.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2182-12-6**] 10:38 AM
   Acyclovir - [**2182-12-7**] 02:02 AM
   Meropenem - [**2182-12-7**] 02:02 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-12-6**] 03:30 PM
   Midazolam (Versed) - [**2182-12-6**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2182-12-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-7**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.9
   HR: 75 (63 - 94) bpm
   BP: 126/74(86) {121/72(83) - 129/84(94)} mmHg
   RR: 18 (6 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  7,587 mL
                                                                  2,014 mL
   PO:
             TF:
                                                                    159 mL
                                                                    169 mL
   IVF:
                                                                  6,869 mL
                                                                  1,635 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    540 mL
   Urine:
                                                                  1,380 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,207 mL
                                                                  1,474 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (468 - 487) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 62
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.51/29/106/23/1
   Ve: 7.8 L/min
   PaO2 / FiO2: 353
   Physical Examination
   GENERAL: Calm shortly after receiving Propofol bolus for agitation and
   scheduled sinemet
   HEENT: No scleral icterus. PERRL, MMM. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2.
   LUNGS: CTAB, good air movement bilaterally with central rhonchi.
   ABDOMEN: Soft, +BS, NTND
   EXTREMITIES: No edema or calf pain, 2+ radial/ dorsalis pedis/
   posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Less rigid today with improved relaxation.  Has a prominent
   resting tremor when Sinemet and ativan wearing off.
   Labs / Radiology
   217 K/uL
   111 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   14 mg/dL
   117 mEq/L
   142 mEq/L
   25.8 %
   19.2 K/uL
        [image002.jpg]
                            [**2182-12-5**]  10:41 PM
                            [**2182-12-5**]  11:56 PM
                            [**2182-12-6**]  05:28 AM
                            [**2182-12-6**]  05:52 AM
                            [**2182-12-6**]  07:40 AM
                            [**2182-12-6**]  12:58 PM
                            [**2182-12-6**]  01:03 PM
                            [**2182-12-7**]  06:02 AM
   WBC
   23.6
   21.1
   Hct
   29.9
   27.4
   26.7
   Plt
   213
   182
   Cr
   1.2
   1.0
   0.8
   TCO2
   23
   23
   24
   24
   Glucose
   224
   106
   87
   Other labs: PT / PTT / INR:13.4/33.4/1.1, CK / CKMB /
   Troponin-T:2797/6/, ALT / AST:99/234, Alk Phos / T Bili:195/0.7,
   Amylase / Lipase:/39, Differential-Neuts:79.0 %, Lymph:19.6 %, Mono:1.0
   %, Eos:0.3 %, D-dimer:637 ng/mL, Fibrinogen:511 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.9 g/dL, LDH:987 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL,
   Vanco: 13.7
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   ASSESSMENT AND PLAN: 61 yo with hx of parkinson's presented to OSH with
   possible delirium and concern for NMS.
   .
   # Acute MS change: Likely NMS caused by abrupt stop of high doses of
   anti-parkinosonian drugs combined with high doses of Haldol at the OSH,
   though there is question of whether alcohol withdrawal is also
   contributing.  LP was bland, though many cultures are pending.  She is
   now alert on minimal sedation and able to follow basic commands.  She
   can likely be extubated today as she is on minimal vent settings and
   following commands.
   - Sinemet 25/100 two tabs Q6H and amantadine 100mg [**Hospital1 **]
   - Continue diazepam 5mg [**Hospital1 **] with midazolam boluses for agitation,
   assuming that alcohol withdrawal is playing a role.  We can reassess
   her benzodiazepine requirement and switch her over to only PO diazepam.
   - Continue thiamine
   - We can ease off of the aggressive hydration, but should still verify
   [**Hospital1 **] electrolytes today as she as at risk for hypokalemia,
   hypophosphatemia and hypernatremia.
   .
   # Fever: Likely due to NMS as the patient has no signs of infection and
   all cultures are negative to date.
   - On vancomycin, meropenem and acyclovir day 2 for empiric meningitis
   coverage.  These antibiotics can be stopped given given the patient
   improvement and normal LP.
   - avoid antipsychotics
   - f/u cultures
   .
   # Acute renal failure: improved with aggressive hydration, suggesting
   cause was mild rhabdomyolysis and dehydration.  After being 6L positive
   yesterday we may need to begin gently diuresis today.
   .
   # elevated transaminbases: There has been some report from her husband
   that the transaminitis may be chronic.  Her numbers today or less
   suggestive of chronic alcoholism.
   - discuss with family about history of liver disease.
   - continue to trend LFTs.
   .
   # Anemia: no signs of bleed. elevated LDH suggestive of hemolysis but
   also could be due to rhabdo, concerning would be TTP/HUS.  Hemolysis
   labs negative, reticulocyte count low and iron studies suggestive of
   severe anemia of chronic disease.
   - Trend hct with goal >21% or avoid end-organ symptoms.
   - was given 1 UPRC prior to transfer
   .
   # coagulopathy: was concerning for chronic liver dz, the the
   coagulopathy has now resolved.
   .
   # hypernatremia: appears to be hypovolemic hypernatremia. was
   significantly elevated in OSH and rapidly corrected
   - monitor daily and give 150mg free water flushes Q6hrs.
   - Continue to monitor qdaily.
   .
   # EtOH abuse: history until recent admission. given significant benzo
   administration, will hold further dose administration. withdrawal could
   possibly represent. will monitor and consider valium if indicated.
   .
   FEN: IVF, tube feed
   .
   PPX:
   -DVT ppx with SC heparin and pneumoboots
   -bowel regimen with colace and senna
   -PPI: No indication for ulcer prevention as she is being extubated
   today.
   .
   ACCESS: PIV's
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: Partner [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 9657**], son [**Name (NI) 3436**]:
   [**Telephone/Fax (1) 9658**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-12-6**] 12:08 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2182-12-6**] 08:04 AM
   Multi Lumen - [**2182-12-6**] 11:43 AM
   18 Gauge - [**2182-12-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending extubation and stabilization.

2182-12-08 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - antibiotics stopped
   - will hold on extubation given that she is requiring large doses of
   benzos for aggitation and presummed withdrawal
   - high IV midazolam requirement therefore started on a gtt, propofol
   gtt weaned
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2182-12-7**] 02:02 AM
   Meropenem - [**2182-12-7**] 02:02 AM
   Vancomycin - [**2182-12-7**] 08:05 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Propofol - [**2182-12-7**] 01:32 PM
   Midazolam (Versed) - [**2182-12-8**] 12:13 AM
   Heparin Sodium (Prophylaxis) - [**2182-12-8**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-8**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 65 (62 - 103) bpm
   BP: 112/76(84) {112/60(76) - 166/90(119)} mmHg
   RR: 24 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  4,512 mL
                                                                    953 mL
   PO:
             TF:
                                                                    474 mL
                                                                    324 mL
   IVF:
                                                                  3,469 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                    950 mL
   Urine:
                                                                  4,020 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    492 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (274 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 21
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   7.4 g/dL
   120 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   8 mg/dL
   105 mEq/L
   143 mEq/L
   26.3 %
   16.6 K/uL
        [image002.jpg]
                            [**2182-12-6**]  05:52 AM
                            [**2182-12-6**]  07:40 AM
                            [**2182-12-6**]  12:58 PM
                            [**2182-12-6**]  01:03 PM
                            [**2182-12-7**]  05:23 AM
                            [**2182-12-7**]  06:02 AM
                            [**2182-12-7**]  12:01 PM
                            [**2182-12-7**]  09:07 PM
                             [**2182-12-8**]  06:05 AM
                             [**2182-12-8**]  07:09 AM
   WBC
   19.2
   16.6
   Hct
   26.7
   25.8
   21.9
   26.3
   Plt
   217
   283
   Cr
   0.8
   0.6
   0.7
   0.6
   0.6
   TCO2
   23
   24
   24
   Glucose
   87
   111
   100
   104
   120
   Other labs: PT / PTT / INR:13.3/40.3/1.1, CK / CKMB /
   Troponin-T:861/6/, ALT / AST:72/128, Alk Phos / T Bili:213/0.7, Amylase
   / Lipase:/39, Differential-Neuts:79.0 %, Lymph:19.6 %, Mono:1.0 %,
   Eos:0.3 %, D-dimer:637 ng/mL, Fibrinogen:511 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.9 g/dL, LDH:482 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL,
   PO4:4.1 mg/dL
   Microbiology: Sputum Cx: Coag + STAPH AUREUS, same as previous with
   colonization from two colonies
   Assessment and Plan
   61 yo with hx of parkinson's presented to OSH with possible delirium
   and concern for NMS.
   # Acute MS change: Likely NMS caused by abrupt stop of high doses of
   anti-parkinosonian drugs combined with high doses of Haldol at the OSH,
   also contribution of alcohol withdrawal.  LP was bland, though many
   cultures are pending.  Propofol weaned off, high midazolam gtt more
   calm overnight.  Able to follow commands.
   - Sinemet 25/100 two tabs Q6H and amantadine 100mg [**Hospital1 **]
   - wean bzd gtt
   - Continue thiamine
   - We can ease off of the aggressive hydration, but should still verify
   [**Hospital1 **] electrolytes today as she as at risk for hypokalemia,
   hypophosphatemia and hypernatremia.
   # Fever: Likely due to NMS as the patient has no signs of infection and
   all cultures are negative to date.
   - On vancomycin, meropenem and acyclovir day 2 for empiric meningitis
   coverage.  These antibiotics can be stopped given given the patient
   improvement and normal LP.
   - avoid antipsychotics
   - f/u cultures
   # Elevated transaminases: There has been some report from her husband
   that the transaminitis may be chronic.  Her numbers today or less
   suggestive of chronic alcoholism.
   - discuss with family about history of liver disease.
   - continue to trend LFTs.
   # Anemia: no signs of bleed. elevated LDH suggestive of hemolysis but
   also could be due to rhabdo, concerning would be TTP/HUS.  Hemolysis
   labs negative, reticulocyte count low and iron studies suggestive of
   severe anemia of chronic disease.  Decreased Hct to 21, but repeat 26,
   likely error.
   - Trend hct with goal >21% or avoid end-organ symptoms.
   - was given 1 UPRC prior to transfer
   #. coagulopathy: was concerning for chronic liver dz, the the
   coagulopathy has now resolved.
   #.  hypernatremia: appears to be hypovolemic hypernatremia. was
   significantly elevated in OSH and rapidly corrected
   - monitor daily and give 150mg free water flushes Q6hrs.
   - Continue to monitor qdaily.
   # Acute renal failure: improved with aggressive hydration, suggesting
   cause was mild rhabdomyolysis and dehydration.  CK trending down, Cr
   normalized.
   # EtOH abuse: history until recent admission. given significant benzo
   administration, will hold further dose administration. withdrawal could
   possibly represent. will monitor and consider valium if indicated.
   #. FEN: IVF, tube feed
   #. PPX:
   -DVT ppx with SC heparin and pneumoboots
   -bowel regimen with colace and senna
   -PPI: start if cannot extubate today
   #. ACCESS: PIV's
   #. CODE STATUS: Presumed full
   #. EMERGENCY CONTACT: Partner [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 9657**], son [**Name (NI) 3436**]:
   [**Telephone/Fax (1) 9658**]
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2182-12-7**] 04:19 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-12-6**] 11:43 AM
   18 Gauge - [**2182-12-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-12-09 06:37:00 Physician Resident Progress Note
Chief Complaint: NMS and alcohol withdrawal
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-12-8**] 04:15 PM
   --Versed gtt weaned with Valium bridge, and Oxazepam standing
   --Agitated in the pm, pulling at lines, trying to get out of bed,
   oriented to place not time, started on Valium [**6-16**] IV q2. Took 30mg IV
   b/t 7-10pm.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2182-12-7**] 02:02 AM
   Meropenem - [**2182-12-7**] 02:02 AM
   Vancomycin - [**2182-12-7**] 08:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-12-9**] 12:17 AM
   Diazepam (Valium) - [**2182-12-9**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-12-9**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.8
   HR: 58 (58 - 131) bpm
   BP: 140/64(82) {112/60(74) - 171/92(105)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,460 mL
                                                                     33 mL
   PO:
             TF:
                                                                    499 mL
   IVF:
                                                                    661 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    920 mL
   Urine:
                                                                  2,930 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,470 mL
                                                                   -887 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 324 (324 - 469) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 9.6 L/min
   Physical Examination
   GENERAL: Calm, oriented to person and year, asking when she can get out
   of here, breathing easily.
   HEENT: No scleral icterus. PERRL, MMM. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2.
   LUNGS: CTAB, good air movement bilaterally.
   ABDOMEN: Soft, +BS, NTND
   EXTREMITIES: No edema or calf pain, 2+ radial/ dorsalis pedis/
   posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Continues to have some residual rigidity.
   Labs / Radiology
   298 K/uL
   10.4 g/dL
   76 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   143 mEq/L
   29.0 %
   13.1 K/uL
        [image002.jpg]
                            [**2182-12-6**]  01:03 PM
                            [**2182-12-7**]  05:23 AM
                            [**2182-12-7**]  06:02 AM
                            [**2182-12-7**]  12:01 PM
                            [**2182-12-7**]  09:07 PM
                             [**2182-12-8**]  06:05 AM
                             [**2182-12-8**]  07:09 AM
                             [**2182-12-8**]  02:57 PM
                             [**2182-12-8**]  08:44 PM
                             [**2182-12-9**]  03:22 AM
   WBC
   19.2
   16.6
   14.9
   13.1
   Hct
   25.8
   21.9
   26.3
   29.6
   29.0
   Plt
   [**Telephone/Fax (3) 9707**]98
   Cr
   0.8
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   24
   Glucose
   87
   111
   100
   104
   120
   102
   96
   76
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:422/6/, ALT / AST:44/80, Alk Phos / T Bili:191/0.6, Amylase
   / Lipase:/39, Differential-Neuts:84.1 %, Lymph:12.3 %, Mono:2.7 %,
   Eos:0.7 %, D-dimer:637 ng/mL, Fibrinogen:511 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.9 g/dL, LDH:482 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   61 yo with hx of parkinson's presented to OSH with possible delirium
   and concern for NMS, now extubated with signs of possible alcohol
   withdrawal.
   # Acute MS change: Cause of her altered mental status was likely NMS,
   alcohol withdrawal and delirium.  It seems that she may have had some
   baseline dementia as well.  LP was bland, though viral cultures are
   pending.  Off of sedation except for PO valium on CIWA scale.  Able to
   follow commands.  Now swallowing as well.
   - Sinemet 25/100 two tabs Q6H and amantadine 100mg [**Hospital1 **]
   - weaned off of midazolam gtt, but still requiring doses of valium
   (40mg yesterday evening and 20mg since midnight).  Goal is to get back
   to home doses of oxazepam.  For now we will use a CIWA scale with PRN
   valium with scores>10.
   - Can d/c NG tube if she can swallow PO meds without difficulty (did
   drink juice without difficulty).  Then she can come out of restraints
   as well.
   - Continue thiamine
   # Fever/leukocytosis: Likely due to NMS as the patient has no signs of
   infection.  Except for an asymptomatic sputum culture with coag +
   staph, all other cultures are negative to date.  Of antibiotics,
   leukocytosis improving, afebrile.
   - avoid antipsychotics
   - f/u cultures
   # Elevated transaminases: There has been some report from her partner
   that the transaminitis may be chronic.  Her numbers are suggestive of
   chronic alcoholism.
   - RUQ ultrasound today.
   - discuss with family about history of liver disease.
   - continue to trend LFTs.
   # Anemia: Yesterday had a spurious hematocrit of 21%, repeat was 26
   which is near her baseline, but otherwise has had a stable anemia with
   MCV
s on the high side of normal.
   #.  hypernatremia: appears to be hypovolemic hypernatremia. was
   significantly elevated in OSH and rapidly corrected
   - monitor daily and give 150mg free water flushes Q6hrs.
   - Continue to monitor qdaily.
   # Acute renal failure: improved with aggressive hydration, suggesting
   cause was mild rhabdomyolysis and dehydration.  CK trending down, Cr
   normalized.
   # EtOH abuse: has a history of EtOH, unclear exact amount.  Has been
   getting significant amounts of benzodiazepenes for agitation which were
   being interpreted as possible withdrawal.
   - Q2hr CIWA scale with valium 5-10mg for CIWA>10.
   #. FEN: tube feeds off, and is now tolerating some clears.  If she can
   tolerate PO meds, we will d/c NG tube and start her on a clear fluid
   diet.
   #. PPX:
   -DVT ppx with SC heparin and pneumoboots
   -bowel regimen with colace and senna
   -PPI: not required
   #. ACCESS: PIV's and Right IJ.  Can pull right IJ today before going to
   the floor.
   #. CODE STATUS: Presumed full
   #. EMERGENCY CONTACT: Partner [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]: [**Telephone/Fax (1) 9657**], son [**Name (NI) 3436**]:
   [**Telephone/Fax (1) 9658**]
   #. DISPOSITION: Call out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-12-6**] 11:43 AM
   18 Gauge - [**2182-12-7**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To the floor.

2182-12-09 12:32:00 Physician Attending Progress Note
Chief Complaint: Confusion, rigidity
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Sedated overnight with diazepam
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-12-8**] 04:15 PM
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2182-12-7**] 02:02 AM
   Meropenem - [**2182-12-7**] 02:02 AM
   Vancomycin - [**2182-12-7**] 08:05 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2182-12-9**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2182-12-9**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-12-9**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.3
C (97.3
   HR: 62 (58 - 131) bpm
   BP: 143/75(92) {129/62(82) - 171/92(105)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,460 mL
                                                                     62 mL
   PO:
             TF:
                                                                    499 mL
   IVF:
                                                                    661 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                  1,300 mL
   Urine:
                                                                  2,930 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,470 mL
                                                                 -1,238 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 324 (324 - 324) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : few mid insp, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   298 K/uL
   76 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   143 mEq/L
   29.0 %
   13.1 K/uL
        [image002.jpg]
                            [**2182-12-6**]  01:03 PM
                            [**2182-12-7**]  05:23 AM
                            [**2182-12-7**]  06:02 AM
                            [**2182-12-7**]  12:01 PM
                            [**2182-12-7**]  09:07 PM
                             [**2182-12-8**]  06:05 AM
                             [**2182-12-8**]  07:09 AM
                             [**2182-12-8**]  02:57 PM
                             [**2182-12-8**]  08:44 PM
                             [**2182-12-9**]  03:22 AM
   WBC
   19.2
   16.6
   14.9
   13.1
   Hct
   25.8
   21.9
   26.3
   29.6
   29.0
   Plt
   [**Telephone/Fax (3) 9707**]98
   Cr
   0.8
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   24
   Glucose
   87
   111
   100
   104
   120
   102
   96
   76
   Other labs: PT / PTT / INR:12.7/32.1/1.1, CK / CKMB /
   Troponin-T:422/6/, ALT / AST:44/80, Alk Phos / T Bili:191/0.6, Amylase
   / Lipase:/39, Differential-Neuts:84.1 %, Lymph:12.3 %, Mono:2.7 %,
   Eos:0.7 %, D-dimer:637 ng/mL, Fibrinogen:511 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:2.9 g/dL, LDH:482 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   She is slowly improving. We will continue to taper Sinemet per Neuro's
   reqs.  Continue to treat agitation with Valium per CIWA but she is
   gradually improving.   Seems likely her cognitive fxn is not completely
   normal at baseline due to her chronic EtOH.  WBC continues to trend
   down and all cx have been neg except for sputum pos for Staph.  We will
   image her liver.  BUN/Creat are normal.
   ICU Care
   Nutrition:
   Comments: will begin soft solids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2182-12-6**] 11:43 AM
   18 Gauge - [**2182-12-7**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes